US20010003136A1
A continuously operated high-pressure reactor was packed with 250 cm3 of catalyst A and, at 130° C. and 100 bar, charged hourly from the base with 32 g of a methanolic α-indanone solution (80% by weight indanone), 55 ml of liquid ammonia and 15 1 (Stp) of hydrogen. Excess ammonia and methanol were then distilled off. The collected discharges from the reaction were analyzed by gas chromatography: 1-aminoindane was obtained in a yield of 91.8%.

reactant | α-indanone | 32 g | C1CC(=O)C2=CC=CC=C21 | C9H8O
reactant | ammonia | N | H3N
reactant | hydrogen | [H][H] | H2
product | 1-aminoindane | yield of 91.8% | NC1CCC2=CC=CC=C12 | C9H11N
